US07067540B2
Step 1: Preparation of 4-hydroxy-1-(1H-indazol-5-yl)-6-methylpyridin-2(1H)-one
A mixture of 4-hydroxy-6-methyl-2-pyrone (3.75 g, 0.029 mol) and 5-aminoindazole (4.0 g, 0.03 mol) in water (70 ml) was heated at 90° C. under argon for 1 h. The mixture was cooled, decanted the supernatant and residue was triturated with ethanol, cooled and filtered the solid. It was washed with cold ethanol, and dried. 1H NMR (CD3OD/400 MHz) δ 8.11 (s, 1H), 7.64 (m, 2H), 7.18 (d, 1H, J=2.0 Hz), 7.16 (d, 1H, J=2.0 Hz), 6.07 (m, 1H), 5.81 (d, 1H, J=2.8 Hz), and 1.94 (s, 3H); ES-HRMS m/z 242.0962 (M+H calcd for C13H12N3O2 requires 242.0924).

reactant | 4-hydroxy-6-methyl-2-pyrone | 0.029 mol, 3.75 g | OC1=CC(OC(=C1)C)=O | C6H6O3
reactant | 5-aminoindazole | 0.03 mol, 4.0 g | NC=1C=C2C=NNC2=CC1 | C7H7N3
solvent | water | 70 ml | O | H2O
product | 4-hydroxy-1-(1H-indazol-5-yl)-6-methylpyridin-2(1H)-one | OC1=CC(N(C(=C1)C)C=1C=C2C=NNC2=CC1)=O | C13H11N3O2
